US06949542B2
(4-Chloro-5-methyl-2-{3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example J22) (257 mg, 1.0 mmol) and 3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K16) (312 mg, 1.0 mmol) according to the general procedure M. Obtained as a light brown foam (470 mg, 95%).

reactant | (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 257 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
reactant | 3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 312 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=CN=C1)C)=O | C18H20N2O3
product | (4-Chloro-5-methyl-2-{3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=NC(=CN=C1)C)=O)=O | C26H27ClN4O4
